US08563573B2
A suspension of 2-ethyl-5-chloro-1H-pyrrolo[2,3-c]pyridine (1.3 g, 7.19 mmol) in EtOH (20 mL), CuSO4.5H2O (179 mg, 0.72 mmol) and NH3—H2O (60 ml) was added into an autoclave (100 mL). The reaction was stirred at 200° C. and 2 MPa for 10 h. The reaction was cooled to 25° C. and was quenched with water and extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 10/1) to give 2-ethyl-1H-pyrrolo[2,3-c]pyridin-5-amine (190 mg, 16%). 1H-NMR (CDCl3, 300 MHz) δ 10.71 (brs, H), 8.00 (s, 1H), 6.39 (s, 1H), 5.87 (s, 1H), 4.89 (br s, 2H), 2.65 (q, J=7.5 Hz, 2H), 1.22 (t, J=7.5 Hz, 3H).

reactant | 2-ethyl-5-chloro-1H-pyrrolo[2,3-c]pyridine | 7.19 mmol, 1.3 g | C(C)C1=CC=2C(=CN=C(C2)Cl)N1 | C9H9ClN2
reactant | NH3—H2O | 60 ml | N.O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-ethyl-1H-pyrrolo[2,3-c]pyridin-5-amine | 190 mg, 16% | C(C)C1=CC=2C(=CN=C(C2)N)N1 | C9H11N3
